US06087380
a) 1-Methyl-2-[2-(2-cyanothiophen-5-yl)-ethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide
Prepared analogously to Example 25c from 3-(2-cyanothiophen-5-yl)-propionic acid and 3-amino-4-methylamino-benzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide. Yield: 18% of theory, Rf value: 0.66 (silica gel; dichloromethane/methanol=9:1)

reactant | 3-(2-cyanothiophen-5-yl)-propionic acid | C(#N)C=1SC(=CC1)CCC(=O)O | C8H7NO2S
reactant | 3-amino-4-methylamino-benzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide | N1=C(C=CC=C1)N(C(C1=CC(=C(C=C1)NC)N)=O)CCC(=O)OCC | C18H22N4O3
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[2-(2-cyanothiophen-5-yl)-ethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | Yield: 18% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(S2)C#N)C)C=C1)CCC(=O)OCC | C26H25N5O3S
